US08252797B2
1-(3-p-Tolyl-prop-2-ynyl)-1H-pyrazole-4-carboxylic acid ethyl ester (0.226 g, 0.84 mmol) was dissolved in a mixture of solvents THF: methanol:water (3:1:1, 10 ml) and LiOH (0.071 g, 1.7 mol) was added to the reaction mixture with stirring. The reaction mixture was then stirred at 20-25° C. for 2 hours. Solvents were evaporated and the residue was diluted with water (0.5 ml) and acidified with dil. HCl, filtered and dried to obtain off white precipitate, 1-(3-p-Tolyl-prop-2-ynyl)-1H-pyrazole-4-carboxylic acid (0.182 g, 90%).

reactant | 1-(3-p-Tolyl-prop-2-ynyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 0.84 mmol, 0.226 g | C(C)OC(=O)C=1C=NN(C1)CC#CC1=CC=C(C=C1)C | C16H16N2O2
reactant | LiOH | 1.7 mol, 0.071 g | [Li+].[OH-]
solvent | THF methanol water | 10 ml | C1CCOC1.CO.O
product | 1-(3-p-Tolyl-prop-2-ynyl)-1H-pyrazole-4-carboxylic acid | 0.182 g, 90% | C1(=CC=C(C=C1)C#CCN1N=CC(=C1)C(=O)O)C | C14H12N2O2
